US05569664
This compound was prepared in a manner analogous to that of Step B of Example 3, with 0.5 gram (0.0016 mole) of ethyl N-(4-fluoroindol-3-ylmethyl)piperidin-4-ylcarboxylate, 2.0 grams (0.0082 mole) of 4-trifluoromethoxyphenyl bromide, and 0.2 gram (0.0086 gram-atom) of magnesium turnings in about 10 mL of diethyl ether as reagents. The crude reaction product was taken up in hexane. The hexane-insoluble material was collected by filtration and purified by preparative thin layer chromatography with 1:3 ethyl acetate:hexane as an eluant, yielding about 0.09 gram of N-(4-fluoroindol-3-ylmethyl)-4-[bis(4-trifluoromethoxyphenyl)hydroxymethyl]piperidine, mp 76°-88° C. The NMR spectrum was consistent with the proposed structure.

reactant | ethyl N-(4-fluoroindol-3-ylmethyl)piperidin-4-ylcarboxylate | 0.0016 mole, 0.5 gram | FC1=C2C(=CNC2=CC=C1)CN1CCC(CC1)C(=O)OCC | C17H21FN2O2
reactant | 4-trifluoromethoxyphenyl bromide | 0.0082 mole, 2.0 grams | FC(OC1=CC=C(C=C1)Br)(F)F | C7H4BrF3O
reactant | magnesium | 0.2 gram | [Mg] | Mg
solvent | diethyl ether | about 10 mL | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | N-(4-fluoroindol-3-ylmethyl)-4-[bis(4-trifluoromethoxyphenyl)hydroxymethyl]piperidine | about 0.09 gram | FC1=C2C(=CNC2=CC=C1)CN1CCC(CC1)C(O)(C1=CC=C(C=C1)OC(F)(F)F)C1=CC=C(C=C1)OC(F)(F)F | C29H25F7N2O3
